US06635655B1
{2-Methyl-6-[3-(quinolin-2-ylamino)-propoxvmethyl]-phenoxy}-acetic Acid
{2-Methyl-6-[3-(quinolin-2-ylamino)-propoxymethyl]-phenoxy}-acetonitrile (270 mg, 0.75 mmol) is dissolved in ethanol (6 mL). 10 N NaOH (750 μL, 7.5 mmol) is added, and the contents are heated to 60° C. for 4 hrs. The reaction is cooled to r.t. 2 N HCl (3.75 mL, 7.5 mmol) is added and the pH is adjusted to ˜4-6. The contents are poured into water (150 mL) and extracted with ethyl acetate (3×75 mL). The organic fractions were pooled and washed with brine (3×100 mL), dried over MgSO4, filtered and reduced under vacuum to dryness. The crude material was pure enough to test as is to give the title compound. 1H NMR (300 MHz, CDCl3) δ 11.04 (s (broad), 1H), 7.88 (d, 1H), 7.73 (d, 1H), 7.52-7.47 (m, 2H), 7.26-7.12 (m, 3H), 7.02-6.97 (m, 1H), 6.90 (d, 1H), 4.66 (s, 2H), 4.47 (s, 2H), 3.69 (t, 2H), 3.57-3.53 (m, 2H), 2.33 (s, 3H), 2.05 (quintet, 2H). MS (ESI) 381 (M+H)+.

reactant | {2-Methyl-6-[3-(quinolin-2-ylamino)-propoxymethyl]-phenoxy}-acetonitrile | 0.75 mmol, 270 mg | CC1=C(OCC#N)C(=CC=C1)COCCCNC1=NC2=CC=CC=C2C=C1 | C22H23N3O2
reactant | NaOH | 7.5 mmol, 10 N, 750 μL | [OH-].[Na+]
reactant | HCl | 7.5 mmol, 2 N, 3.75 mL | Cl | ClH
reactant | water | 150 mL | O | H2O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | {2-Methyl-6-[3-(quinolin-2-ylamino)-propoxvmethyl]-phenoxy}-acetic Acid | CC1=C(OCC(=O)O)C(=CC=C1)COCCCNC1=NC2=CC=CC=C2C=C1 | C22H24N2O4
